### PR TITLE
[Merged by Bors] - feat(CategoryTheory/Subobject): extend exists and pullback API

### PR DESCRIPTION
**Pull request by mckoen**
Extends some API for the `exists` and `pullback` functors on `Subobject` and `MonoOver`. This PR exists to split up #41769.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/CategoryTheory/Subobject/Basic.lean [hunk 1]
```diff
@@ -739,12 +744,39 @@ def «exists» (f : X ⟶ Y) : Subobject X ⥤ Subobject Y :=
 theorem exists_iso_map (f : X ⟶ Y) [Mono f] : «exists» f = map f :=
   lower_iso _ _ (MonoOver.existsIsoMap f)
 
+lemma exists_eq_mk_of_mono (f : X ⟶ Y) [Mono f] (X' : Subobject X) :
+    («exists» f).obj X' = mk (X'.arrow ≫ f) := by
+  slice_lhs 0 1 => rw [exists_iso_map, ← mk_arrow X']
```
Comment (robin-carlier) [inline Mathlib/CategoryTheory/Subobject/Basic.lean]: Here `slice_lhs` is only used to target the rewrite at the LHS, and not for anly "slicing" of a chain of morphisms, so it is probably more idiomatic to use
```suggestion
  conv_lhs => rw [exists_iso_map, ← mk_arrow X']
```

File: Mathlib/CategoryTheory/Subobject/Basic.lean [hunk 2]
```diff
@@ -739,12 +744,39 @@ def «exists» (f : X ⟶ Y) : Subobject X ⥤ Subobject Y :=
...
+  rw [map_mk]
+
+theorem exists_le_exists_iff_of_mono (f : X ⟶ Y) [Mono f] (X₁ X₂ : Subobject X) :
+    («exists» f).obj X₁ ≤ («exists» f).obj X₂ ↔ X₁ ≤ X₂ :=
+  Quotient.inductionOn₂' X₁ X₂ (fun _ _ ↦
+    ⟨fun ⟨h⟩ ↦ ⟨(MonoOver.exists f).preimage h⟩, fun ⟨h⟩ ↦ ⟨(MonoOver.exists f).map h⟩⟩)
```
Comment (robin-carlier) [inline Mathlib/CategoryTheory/Subobject/Basic.lean]: (optional): technically, you can drop the parentheses here
```suggestion
  Quotient.inductionOn₂' X₁ X₂ fun _ _ ↦
    ⟨fun ⟨h⟩ ↦ ⟨(MonoOver.exists f).preimage h⟩, fun ⟨h⟩ ↦ ⟨(MonoOver.exists f).map h⟩⟩
```

File: Mathlib/CategoryTheory/Subobject/Basic.lean [hunk 3]
```diff
@@ -739,12 +744,39 @@ def «exists» (f : X ⟶ Y) : Subobject X ⥤ Subobject Y :=
...
+  (existsPullbackAdj f).gc.l_u_le Y'
+
+@[simp]
+theorem pullback_exists_eq_self_of_mono (f : X ⟶ Y) [Mono f] [HasPullbacks C]
+    (X' : Subobject X) : (pullback f).obj ((«exists» f).obj X') = X' := by
+  rw [exists_iso_map, pullback_map_self]
+
+theorem exists_comp (f : X ⟶ Y) (g : Y ⟶ Z) (x : Subobject X) [HasPullbacks C] :
+    («exists» (f ≫ g)).obj x = («exists» g).obj ((«exists» f).obj x) :=
+  Quotient.inductionOn' x (fun _ ↦ Quotient.sound ⟨(MonoOver.existsComp f g).app _⟩)
```
Comment (robin-carlier) [inline Mathlib/CategoryTheory/Subobject/Basic.lean]: (optional): same
```suggestion
  Quotient.inductionOn' x fun _ ↦ Quotient.sound ⟨(MonoOver.existsComp f g).app _⟩
```

**Review by robin-carlier — APPROVED** [review]
Thanks!

maintainer delegate

**Comment by jcommelin** [comment]
Thanks :tada:

bors merge
